US04514212
12.5 g of N-[2-(2-chloroethoxy)-phenylsulfonyl]-N'-methylurea are suspended in 210 ml of chlorobenzene. This suspension is dried by azeotropic destilling off 20 ml of the solvent. 7.0 g of phosgene are introduced into the reaction mixture within 45 minutes at a temperature of 120°-130° C. Evaporation to dryness of the resulting clear solution yields 11.0 g of 2-(2-chloroethoxy)-phenylsulfonyl isocyanate in form of a yellowish oil.

reactant | N-[2-(2-chloroethoxy)-phenylsulfonyl]-N'-methylurea | 12.5 g | ClCCOC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC | C10H13ClN2O4S
solvent | chlorobenzene | 210 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(2-chloroethoxy)-phenylsulfonyl isocyanate | 11.0 g | ClCCOC1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H8ClNO4S
